US09079880B2
Dissolve (R)-pyrrolidin-3-ol (0.08 mL, 1.00 mmol) and 4-fluorobenzonitrile (121 mg, 1.00 mmol) into 1 mL of DMSO. Add K2CO3 (276 mg, 2.00 mmol) and heat the mixture at 120° C. for 16 h. LC-MS analysis indicates the desired intermediate. Add 10 mL of H2O. Filter the precipitate and dry in a Buchner funnel for 1 h to give 188 mg of 4-((R)-3-hydroxy-pyrrolidin-1-yl)-benzonitrile.

reactant | (R)-pyrrolidin-3-ol | 1.00 mmol, 0.08 mL | N1C[C@@H](CC1)O | C4H9NO
reactant | 4-fluorobenzonitrile | 1.00 mmol, 121 mg | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | DMSO | 1 mL | CS(=O)C | C2H6OS
reactant | K2CO3 | 2.00 mmol, 276 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | H2O | 10 mL | O | H2O
product | 4-((R)-3-hydroxy-pyrrolidin-1-yl)-benzonitrile | 188 mg | O[C@H]1CN(CC1)C1=CC=C(C#N)C=C1 | C11H12N2O
